US08349824B2
A mixture of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (600 mg, 1.66 mmol), N-ethylmethylamine (427 ul, 4.97 mmole), N-diisopropylethylamine (868 ul, 4.97 mmol) and propylphosphonic anhydride (50% in ethyl acetate, 2.44 ml, 4.14 mmol) in tetrahydrofurane (30 ml) is stirred for 2 hours at 70° C. The cooled solution is diluted with ethyl acetate, washed once with sat. aqueous sodium bicarbonate solution, once with brine, dried with magnesium sulfate and evaporated to dryness. Two successive crystallizations of the residue (680 mg white solid) from ethyl acetate afford N4-ethyl-N4,1-dimethyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide (365 mg, 54.6%) as a white solid. mp.: 193-4° C. MS: m/z=404.3 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 1.66 mmol, 600 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | N-ethylmethylamine | 4.97 mmole, 427 ul | C(C)NC | C3H9N
reactant | propylphosphonic anhydride | 4.14 mmol, 2.44 ml | CCCP(=O)=O | C3H7O2P
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N4-ethyl-N4,1-dimethyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide | 365 mg, 54.6% | C(C)N(C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)C)C | C21H21N7O2
